US06566535B1
Ethyl 7-(4-propoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate (15 g, 40.707 mmol) was suspended in 135 ml of acetic acid and was heated to 56° C. to dissolve. A solution of 30% hydrogen peroxide (9.5 g, 83.449 mmol) in 15 ml of acetic acid was dropped slowly and then was stirred at 65-70° C. for 3 hours. At that temperature, 60 ml of an aqueous sodium sulfite solution was dropped and disappearance of the peroxide was checked with iodo-starch paper. At that temperature, 15 ml of water was dropped. Crystals were formed and the mixture was cooled and stirred for 2 hours. After filtration, the residue was washed with 15 ml of a mixed solution of acetic acid/water =3/2 and subsequently with 150 ml of water. After vacuum drying (40° C.), 15.4 g (Yield 94%) of ethyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate was obtained as white crystals.

reactant | Ethyl 7-(4-propoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 40.707 mmol, 15 g | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OCC)C1 | C22H24O3S
reactant | hydrogen peroxide | 83.449 mmol, 9.5 g | OO | H2O2
reactant | sodium sulfite | 60 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 15 ml | O | H2O
solvent | acetic acid | 135 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | ethyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 15.4 g, Yield 94% | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OCC)C1 | C22H24O5S
